US04366189
A solution of 11.5 g of sodium in 100 ml of methanol is added to a suspension of 76.5 g of 4-chloro-6-methyl-2-p-tolylpyrimidine in 200 ml of methanol. The reaction mixture is refluxed for 2 hours and poured into water. The precipitate is filtered with suction, washed with water and dried, affording 72.9 g (97% of theory) of 4-methoxy-6-methyl-2-p-tolylpyrimidine with a melting point of 66°-67° C.

reactant | sodium | 11.5 g | [Na] | Na
reactant | 4-chloro-6-methyl-2-p-tolylpyrimidine | 76.5 g | ClC1=NC(=NC(=C1)C)C1=CC=C(C=C1)C | C12H11ClN2
reactant | water | O | H2O
reactant | methanol | 100 ml | CO | CH4O
reactant | methanol | 200 ml | CO | CH4O
product | 4-methoxy-6-methyl-2-p-tolylpyrimidine | 72.9 g, 97% | COC1=NC(=NC(=C1)C)C1=CC=C(C=C1)C | C13H14N2O
